US08669271B2
4-(5-Pyridin-4-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and pyridine-4-boronic acid following a procedure analogous to that described in Example 28. LC (method 10): tR=1.50 min; Mass spectrum (ESI+): m/z=382 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | pyridine-4-boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 4-(5-Pyridin-4-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CC=NC=C2)O1 | C22H27N3O3
